### PR TITLE
[Merged by Bors] - feat: add lemma `LinearMap.trace_restrict_eq_sum_trace_restrict`

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/LinearMap.lean [hunk 1]
```diff
@@ -86,4 +89,38 @@ lemma trace_comp_eq_zero_of_commute_of_trace_restrict_eq_zero
...
+  induction' hx using Submodule.iSup_induction' with i m hm y z _ _ hy hz
+  · by_cases hi : i ∈ s
+    · apply Submodule.mem_iSup_of_mem i
+      simp only [hi, iSup_pos] at hm ⊢
+      exact hf i hm
+    · replace hm : m = 0 := by simpa [hi] using hm
+      simp [hm]
+  · simp
+  · rw [map_add]
+    exact add_mem hy hz
```
Comment (ADedecker) [inline Mathlib/Algebra/DirectSum/LinearMap.lean:104]: Modulo some glue to turn `MapsTo` into `map _ ≤ _`, this sounds like an easy consequence of [Submodule.map_iSup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/Map.html#Submodule.map_iSup).

Comment (ocfnash) [reply Mathlib/Algebra/DirectSum/LinearMap.lean]: Good idea, done!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
